US06482852B2
(a) 2-(3-Hydroxy-propylsulfanyl)-phenol
2-Hydroxythiophenol (1.00 g, 8.70 mmol) was added to a mixture of DMF (10 mL) and Cs2CO3 (2.90 g, 8.90 mmol). To this was added 3-bromopropanol (0.80 mL, 9.16 mmol) and the mixture was stirred for 20 min. The mixture was added to into water and extracted with EtOAc. The combined extracts were washed with water, dried over magnesium sulfate and concentrated to a clear oil (2.36 g, 100%). MS [M−H]− 183.

reactant | 2-Hydroxythiophenol | 8.70 mmol, 1.00 g | OC1=C(C=CC=C1)S | C6H6OS
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 8.90 mmol, 2.90 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-bromopropanol | 9.16 mmol, 0.80 mL | BrCCCO | C3H7BrO
solvent | water | O | H2O
product | 2-(3-Hydroxy-propylsulfanyl)-phenol | OCCCSC1=C(C=CC=C1)O | C9H12O2S
